US05708008
To a solution of 3.96 gm (30.0 mMol) 5-amino-1H-indole in 150 mL tetrahydrofuran were added 5.6 mL triethylamine followed by a solution of 5.2 gm (33.0 mMol) 4-fluorobenzoyl chloride in 30 mL tetrahydrofuran. After 18 hours the reaction mixture was poured into water, made basic with sodium hydroxide solution, and extracted with dichloromethane. The organic extracts were combined, dried over sodium sulfate and concentrated under reduced pressure to give a purple solid. This residue was recrystallized from ethyl acetate/hexane to give 6.37 gm (84%) 5-(4-fluoro-benzoyl)amino-1H-indole as brown crystals in two crops.

reactant | 5-amino-1H-indole | 30.0 mMol, 3.96 gm | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 33.0 mMol, 5.2 gm | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(4-fluoro-benzoyl)amino-1H-indole | 6.37 gm, 84% | FC1=CC=C(C(=O)NC=2C=C3C=CNC3=CC2)C=C1 | C15H11FN2O
